US07598257B2
5-(Methylsulfinyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-pentanenitrile
A solution of 5-(methylthio)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-pentanenitrile(0.065 g, 0.00021 mol) and hydrogen peroxide (0.022 mL, 0.00023 mol) in ACN (1mL, 0.02 mol) was stirred overnight. The reaction was concentrated and purified by HPLC to give 21 mg of a solid. The solid was triturated with MTBE (1 mL)/DCM (10 drops). The solid was filtered and washed to give 13 mg of a white solid (20% yield) which was dried rt to 50° C. for 2 h.

reactant | 5-(methylthio)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-pentanenitrile | 0.00021 mol, 0.065 g | CSCCC(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C15H16N6S
reactant | hydrogen peroxide | 0.00023 mol, 0.022 mL | OO | H2O2
reactant | ACN | 0.02 mol, 1mL | C(C)#N | C2H3N
product | 5-(Methylsulfinyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]-pentanenitrile | 21 mg | CS(=O)CCC(CC#N)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C15H16N6OS
